US05932595
A solution of 4-bromodiphenyl ether (50 g, 200.7 mmol) in methylene chloride (118 mL) was cooled to 0° C. and chlorosulfonic acid (14.7 mL, 220.8 mmol) was added dropwise over a 20 minute period. The solution was stirred an additional 10 minutes, warmed to room temperature and stirred an additional 1 hour. To this mixture was added oxalyl chloride (23.6 mL, 270.9 mmol), followed by N,N-dimethylformamide (1.5 mL) as a catalyst, and the mixture refluxed for 2 hours. The mixture was cooled to room temperature, and additional oxalyl chloride (23.6 mL, 270.9 mmol) was added, the mixture refluxed for 3 hours, cooled to room temperature and stirred 12 hours more. The solution was concentrated to an oil, azeotroped several times using methylene chloride and put under high vacuum (1 torr) for several hours until the mixture had completely solidified. This mixture was immediately dissolved in methylene chloride (160 mL) which was added dropwise to a solution of triphenylphosphine (157.0 g, 602 mmol) in methylene chloride (160 mL) containing N,N-dimethylformamide (4 mL, 52.2 mmol). The mixture was stirred 2 hours, diluted with 1M aqueous hydrochloric acid (300 mL) and stirred for 1 hour. The aqueous layer was separated, extracted with methylene chloride (200 mL), and the organic layers were combined, washed with 200 mL of brine, dried (MgSO4) and concentrated in vacuo. The resulting solid was further purified through trituration with 750 mL of hexane. The solid was then dissolved in 750 mL of diethyl ether, extracted with 2M aqueous sodium hydroxide (2×350 mL), and the basic aqueous layer back extracted using diethyl ether (2×400 mL). The aqueous layer was adjusted to pH 2, extracted with diethyl ether (3×200 mL) and the combined organic layers dried (MgSO4) and concentrated to afford 4-(4-bromophenoxy)thiophenol (45.6 g, 81%). 1HNMR (CDCl3) δ 3.43 (s, 1H), 6.86 (d, J=8.9 Hz, 2H), 6.89 (d, J=8.6 Hz, 2H), 7.28 (d, J=8.6 Hz, 2H), 7.43 (d, J=8.9 Hz, 2H).

reactant | 4-bromodiphenyl ether | 200.7 mmol, 50 g | C1=CC=C(C=C1)OC2=CC=C(C=C2)Br | C12H9BrO
reactant | chlorosulfonic acid | 220.8 mmol, 14.7 mL | ClS(=O)(=O)O | ClHO3S
reactant | oxalyl chloride | 270.9 mmol, 23.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 270.9 mmol, 23.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triphenylphosphine | 602 mmol, 157.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N,N-dimethylformamide | 52.2 mmol, 4 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 118 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 160 mL | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 1M, 300 mL | Cl | ClH
product | 4-(4-bromophenoxy)thiophenol | 45.6 g, 81% | BrC1=CC=C(OC2=CC=C(C=C2)S)C=C1 | C12H9BrOS
